US06472349B1
2-Amino-3-chloro-6-methylbenzamide
Using two dropping funnels, a solution of 59 ml (0.78 mol) of a 25% strength solution of ammonia in 207 ml of water and a mixture of 135.2 g (0.64 mol) of 3-chloro-6-methylisatoic anhydride in 705 ml of DMF were added simultaneously over a period of 30 min with stirring at 85-90° C. to 150 ml of water, resulting in a strong evolution of gas. The mixture was stirred at 90° C. for 2 h and at 22° C. for 10 h. The reaction solution was concentrated under reduced pressure and the residue was triturated with methyl tert-butyl ether, filtered off with suction and dried. This gave 67.4 g (57% of theory) of the title compound as a yellowish powder of m.p. 124-128° C.

reactant | ammonia | N | H3N
reactant | 3-chloro-6-methylisatoic anhydride | 0.64 mol, 135.2 g | ClC1=C2C(C(=O)OC(N2)=O)=C(C=C1)C | C9H6ClNO3
solvent | water | 207 ml | O | H2O
solvent | DMF | 705 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2-Amino-3-chloro-6-methylbenzamide | NC1=C(C(=O)N)C(=CC=C1Cl)C | C8H9ClN2O
